US05095113
reacting the 2,4-dichloro-6-methyl-1,3,5-triazine with sodium methoxide and monomethylamine to form 2-methyl-4-methylamino-6-methoxy-1,3,5-triazine.

reactant | 2,4-dichloro-6-methyl-1,3,5-triazine | ClC1=NC(=NC(=N1)Cl)C | C4H3Cl2N3
reactant | sodium methoxide | C[O-].[Na+]
reactant | monomethylamine | CN | CH5N
product | 2-methyl-4-methylamino-6-methoxy-1,3,5-triazine | CC1=NC(=NC(=N1)NC)OC | C6H10N4O
